US07049310B2
Preparation of (E)-N-(1-benzyl-1H-indol-3-ylmethyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylamide
A solution of 6-bromo-3,4-dihydro-1H-1,8-naphthyridin-2-one (1.05 g, 4.60 mmole), N-(1-benzyl-1H-indol-3-ylmethyl)-N-methyl-acrylamide (1.40 g, 4.60 mmole), Pd(OAc)2 (0.10 g, 0.46 mmole), tri-ortho-tolylphosphine (0.28 g, 0.92 mmole) and diisopropylethylamine (1.20 mL 6.90 mmole) in propionitrile (75 mL) was deoxygenated, then was and heated to reflux under a N2 overnight. The dark mixture was filtered through a pad of celite®, and the filter pad was rinsed with acetonitrile (300 mL). The filtrate was concentrated in vacuo, and the residue was purified by flash chromatography on silica gel (5% MeOH/CHCl3). The title compound (0.70 g. 35%) was obtained as a light yellow solid after drying in vacuo: MS (ES) m/e 451 (M+H)+.

reactant | 6-bromo-3,4-dihydro-1H-1,8-naphthyridin-2-one | 4.60 mmole, 1.05 g | BrC=1C=C2CCC(NC2=NC1)=O | C8H7BrN2O
reactant | N-(1-benzyl-1H-indol-3-ylmethyl)-N-methyl-acrylamide | 4.60 mmole, 1.40 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)CN(C(C=C)=O)C | C20H20N2O
reactant | tri-ortho-tolylphosphine | 0.92 mmole, 0.28 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | diisopropylethylamine | 6.90 mmole, 1.20 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | propionitrile | 75 mL | C(CC)#N | C3H5N
catalyst | Pd(OAc)2 | 0.46 mmole, 0.10 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-N-(1-benzyl-1H-indol-3-ylmethyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylamide | 0.70 g, 35% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)CN(C(\C=C\C=1C=NC=2NC(CCC2C1)=O)=O)C | C28H26N4O2
